US04233302
C. 2-[2-[[5-(Hydroxymethyl)-2-furanylmethyl]thio]ethyl]-1H-isoindole-1,3(2H)-dione
Sodium borohydride (165 mg) was added in portions over a period of 10 mins to a solution of 2-[2-[(5-formyl-2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione (5.0 g) in methanol (100 ml) at 0° C. After stirring for 45 mins, acetic acid (1 ml) was added and the mixture evaporated. Water (100 ml) was added and the solid that precipitated extracted into ethyl acetate (2×150 ml). The ethyl acetate extracts were dried (magnesium sulphate) and evaporated yielding an oil which solidified on trituration in light petroleum (b.p. 60°-80° C.). Crystallisation from methyl acetate-light petroleum (b.p. 60°-80° C.) afforded the title compound as a light, white solid (4.05 g) m.p. 82.5°-84° C.

reactant | Sodium borohydride | 165 mg | [BH4-].[Na+]
reactant | 2-[2-[(5-formyl-2-furanylmethyl)thio]ethyl]-1H-isoindole-1,3(2H)-dione | 5.0 g | C(=O)C1=CC=C(O1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C16H13NO4S
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 2-[2-[[5-(Hydroxymethyl)-2-furanylmethyl]thio]ethyl]-1H-isoindole-1,3(2H)-dione | OCC1=CC=C(O1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C16H15NO4S
